US04382958
N-[3-[4-(2-Hydroxyethoxy)phenyl]-1,1-dimethylpropyl]-2-hydroxy-2-phenylethanamine
A solution of phenyl glyoxal monohydrate (3.6 g) and 3-[4-(2-hydroxyethoxy)phenyl]-1,1-dimethylpropylamine (5 g) in benzene (100 ml) was heated under reflux with removal of water by a Dean and Stark trap. When water removal was complete, the benzene was evaporated under reduced pressure, the residue dissolved in methanol and sodium borohydride (2 g) added. The solution was stirred at ice-water temperature for 15 minutes, the methanol evaporated and the residue portioned between ethyl acetate and water. The organic layer was dried MgSO4 and evaporated to give a solid (6 g) which was purified on a silica gel column eluting with 4% methanol in chloroform. The product (2.8 g) was crystallised from dichloromethane, mp 118°-120° C.

reactant | phenyl glyoxal monohydrate | 3.6 g | O.C1(=CC=CC=C1)C(=O)C=O
reactant | 3-[4-(2-hydroxyethoxy)phenyl]-1,1-dimethylpropylamine | 5 g | OCCOC1=CC=C(C=C1)CCC(C)(C)N | C13H21NO2
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-[3-[4-(2-Hydroxyethoxy)phenyl]-1,1-dimethylpropyl]-2-hydroxy-2-phenylethanamine | 6 g | OCCOC1=CC=C(C=C1)CCC(C)(C)NCC(C1=CC=CC=C1)O | C21H29NO3
